US03987171
To a solution of 33 parts of acetyl chloride in 44 parts of tetrahydrofuran were added 10 parts of 6-chloro-2,3-diaminoquinoxaline. The temperature rose to 35°. The reaction mixture was cooled to 5° in an ice bath and stirred vigorously during the addition of a solution of 15 parts of pyridine in 22 parts of tetrahydrofuran. The cooling bath was removed and the reaction mixture was stirred for 6 hours. The solvent was evaporated and the residue was partitioned between 340 parts of methylene chloride and 200 parts of water. The methylene chloride layer was separated and washed in succession with 200 parts each of water, 10% aqueous sodium carbonate, water, 3% aqueous hydrochloric acid, and water. The methylene chloride solution was dried (MgSO4) and evaporated. The residue was triturated with ether, filtered off, and washed with ether to yield 1.6 parts of 2,3-bis-(acetamido)-6-chloroquinoxaline as a tan solid, m.p. 178° dec.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 6-chloro-2,3-diaminoquinoxaline | ClC=1C=C2N=C(C(=NC2=CC1)N)N | C8H7ClN4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-bis-(acetamido)-6-chloroquinoxaline | C(C)(=O)NC1=NC2=CC=C(C=C2N=C1NC(C)=O)Cl | C12H11ClN4O2
